US08895547B2
(S)-3-(6,6-Dimethyl-4,4-dioxo-5-p-tolyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)-3-phenylpropan-1-ol
Under inert gas, 60 mg of trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester, 5.3 mg of bis(dibenzylideneacetone)palladium and 13.1 mg of 1,2,3,4,5-pentaphenyl-1-(di-tert-butylphosphino)ferrocene were initially charged, dissolved in 1.2 ml of toluene and stirred at room temperature for 5 minutes. After the addition of 0.09 ml of a 2 N solution of trimethylaluminum, the reaction mixture was stirred at 80° C. for 2 hours. After cooling to room temperature, 1 ml of methanol was added and the solvent was removed under reduced pressure. The residue was dissolved in 2 ml of methanol, 0.2 ml of concentrated hydrochloric acid was added and the mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with 20 ml of ethyl acetate and 10 ml of water, and neutralized with sodium hydroxide solution. The organic phase was washed once again with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic phase was dried over MgSO4 and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (22.8 mg) with a molecular weight of 402.5 g/mol (C21H26N2O4S); MS (ESI): m/e=403 (M+H+).

reactant | trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester | 60 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(C)C | C27H37F3N2O7S2Si
reactant | trimethylaluminum | C[Al](C)C
reactant | methanol | 1 ml | CO | CH4O
solvent | toluene | 1.2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 5.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,2,3,4,5-pentaphenyl-1-(di-tert-butylphosphino)ferrocene | 13.1 mg | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | (S)-3-(6,6-Dimethyl-4,4-dioxo-5-p-tolyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)-3-phenylpropan-1-ol | 22.8 mg | CC1(C(S(N=C(O1)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)C)C | C21H26N2O4S
